US07659297B2
(rac.) 5-{[6-Fluoro-2,5-dihydroxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one
59.7 mg (0.128 mmol) of (rac.) 5-{[6-fluoro-2-hydroxy-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one is mixed at 0° C. with 1.3 ml of a 1 molar solution of boron tribromide in dichloromethane, and it is stirred for one hour at 0 to 5° C. At -10C, saturated sodium bicarbonate solution is now carefully added in drops. After 10 minutes of vigorous stirring at room temperature, the batch is extracted three times with methyl tert-butyl ether. The organic phases are dried, and after the solvent is spun off, the residue is chromatographed on a Flashmaster. 46.5 mg (80.3%) of the desired compound is isolated.

reactant | (rac.) 5-{[6-fluoro-2-hydroxy-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one | 0.128 mmol, 59.7 mg | FC=1C(=C2C(CC(C(C2=CC1C)NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC | C24H24F4N2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (rac.) 5-{[6-Fluoro-2,5-dihydroxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one | 46.5 mg, 80.3% | FC=1C(=C2C(CC(C(C2=CC1C)NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)O | C23H22F4N2O3
